US04271167
The procedure of Example 3 is followed, but a suspension of 4-hydroxy-4-phenyl-3-(pyrid-2-yl)-thiazolidine-2-thione (23.0 g) in methanol (240 cc) and a solution of potassium borohydride (4.3 g) in distilled water (60 cc) are used as the starting materials at a maximum of 35° C. The reaction is allowed to proceed for 30 minutes at 25°-35° C. The crude product (26.1 g) is dissolved in a mixture of cyclohexane (200 cc) and ethyl acetate (50 cc). The solution is chromatographed on silica (0.2-0.5 mm) (280 g) contained in a column of diameter 4 cm. Elution is carried out with a mixture of cyclohexane (480 cc) and ethyl acetate (120 cc) and then with a mixture of cyclohexane (280 cc) and ethyl acetate (120 cc), these eluates being discarded. Elution is continued with a mixture of cyclohexane (700 cc) and ethyl acetate (300 cc), this eluate being collected and evaporated to dryness under reduced pressure (20 mm Hg) at 45° C. The chromatographed product (18.1 g) is purified by recrystallisation from a mixture of ethyl ether (90 cc) and petroleum ether (b.p. 40° to 65° C., 30 cc). 2-Hydroxy-2-phenylethyl pyrid-2-yldithiocarbamate (14.9 g), which melts at 82° C., is obtained.

reactant | 4-hydroxy-4-phenyl-3-(pyrid-2-yl)-thiazolidine-2-thione | 23.0 g | OC1(N(C(SC1)=S)C1=NC=CC=C1)C1=CC=CC=C1 | C14H12N2OS2
reactant | potassium borohydride | 4.3 g | [BH4-].[K+]
solvent | methanol | 240 cc | CO | CH4O
solvent | water | 60 cc | O | H2O
solvent | cyclohexane | 200 cc | C1CCCCC1 | C6H12
solvent | ethyl acetate | 50 cc | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-2-phenylethyl pyrid-2-yldithiocarbamate | 14.9 g | N1=C(C=CC=C1)NC(SCC(C1=CC=CC=C1)O)=S | C14H14N2OS2
